US08703742B2
3-(3-Benzyloxy-propoxy)-4-fluoro-2-hydroxy-benzaldehyde
Synthesized according to the methods of general procedure 4 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: 4-fluoro-2,3-dihydroxy-benzaldehyde (5.15 g, 32.9 mmol), NaOtBu (6.95 g, 72.3 mmol), DMSO (200 mL), (3-bromo-propoxymethyl)-benzene (8.31 g, 36.3 mmol). Purification: Biotage silica gel chromatography (hexanes/ethyl acetate gradient) generated 4.00 g of a mixture of the title compound and the dialkylated product. This material was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 10.13 (s, 1H), 7.66-7.54 (m, 5H), 7.53-7.33 (m, 1H), 6.92-6.90 (m, 1H), 4.53 (s, 2H), 4.52-4.44 (m, 2H), 3.71-3.62 (m, 2H), 2.18-2.13 (m, 2H). 19F NMR (376 MHz, DMSO-d6 with D2O) δ (ppm): −121.03-−121.08 (m, 1F).

reactant | 4-fluoro-2,3-dihydroxy-benzaldehyde | 32.9 mmol, 5.15 g | FC1=C(C(=C(C=O)C=C1)O)O | C7H5FO3
reactant | NaOtBu | 72.3 mmol, 6.95 g | CC(C)(C)[O-].[Na+]
reactant | (3-bromo-propoxymethyl)-benzene | 36.3 mmol, 8.31 g | BrCCCOCC1=CC=CC=C1 | C10H13BrO
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | 3-(3-Benzyloxy-propoxy)-4-fluoro-2-hydroxy-benzaldehyde | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1F)O | C17H17FO4
